US08022062B2
7-Chloro-6-(3-methoxypyridin-2-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 315, using 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and 2-chloromethyl-3-methoxypyridine to give, after deprotection by a method similar to the General Procedure 1-4, the title compound as a white solid (71 mg). MS (APCI+) m/z: 335 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 2-chloromethyl-3-methoxypyridine | ClCC1=NC=CC=C1OC | C7H8ClNO
product | 7-Chloro-6-(3-methoxypyridin-2-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | 71 mg | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC1=NC=CC=C1OC | InChI=1S/C17H19ClN2OS.ClH/c1-21-16-3-2-8-20-15(16)11-22-17-13-7-10-19-9-6-12(13)4-5-14(17)18;/h2-5,8,19H,6-7,9-11H2,1H3;1H
